US06114363
Stage 2: 2-ethoxy-6-acetylpyridine:
16.8 g of 2-ethoxy-6-bromopyridine were introduced into 220 ml of tetrahydrofuran at -75° C. 54.4 ml of n-butyllithium (1.6-molar solution in n-hexane) were added dropwise at this temperature. Stirring was continued for two hours at -75° C., and 7.6 g of N,N-dimethylacetamide were added dropwise at this temperature. The mixture was stirred for a further hour at -75° C. and then warmed to -10° C., and first approximately 170 ml of 20 percent strength aqueous ammonium chloride solution and then 200 ml of water were added dropwise at this temperature. The mixture was extracted 3 times using methyl tert-butyl ether. The combined organic phases were washed 3 times with water and subsequently dried over sodium sulfate. After the solvent had been stripped off, the residue which remained was chromatographed on silica gel using cyclohexane/methyl tert-butyl ether 8:1. This gave 5.5 g of 2-ethoxy-6-acetylpyridine as a colorless solid (m.p.: 36-37° C).

reactant | 2-ethoxy-6-bromopyridine | 16.8 g | C(C)OC1=NC(=CC=C1)Br | C7H8BrNO
reactant | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
reactant | n-butyllithium | 1.6-molar, 54.4 ml | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 200 ml | O | H2O
solvent | N,N-dimethylacetamide | 7.6 g | CN(C(C)=O)C | C4H9NO
product | 2-ethoxy-6-acetylpyridine | C(C)OC1=NC(=CC=C1)C(C)=O | C9H11NO2
